US05318959
5-(4-decyloxyphenyl)-3-(2,6-dichlorophenyl)-1-methyl-1H-1,2,4-triazole (Compound No. 85)
A mixture of 1.10 g of N-methyl-N-phenylsulfonyl-2,6-dichlorobenzohydrazonoyl chloride, 0.70 g of 4-decyloxybenzonitrile, 0.4 g of anhydrous aluminium chloride and 3 ml of o-dichlorobenzene was stirred in an oil bath at a temperature of 140° C. for 30 minutes. After the cooling, the resulting solution was dissolved in 100 ml of chloroform, washed with diluted hydrochloric acid solution, diluted sodium hydroxide solution and saline water in this order, dried over anhydrous magnesium sulfate and concentrated under a reduced pressure. The resulting concentrate was purified through a chromatography of silica gel column using a mixed solution of hexane and ethyl acetate as a developing solvent to obtain 0.40 g of the given compound (melting point: 60.0°-64.0° C.).

reactant | N-methyl-N-phenylsulfonyl-2,6-dichlorobenzohydrazonoyl chloride | 1.10 g | CN(N=C(C1=C(C=CC=C1Cl)Cl)Cl)S(=O)(=O)C1=CC=CC=C1 | C14H11Cl3N2O2S
reactant | 4-decyloxybenzonitrile | 0.70 g | C(CCCCCCCCC)OC1=CC=C(C#N)C=C1 | C17H25NO
reactant | aluminium chloride | 0.4 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | o-dichlorobenzene | 3 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | 5-(4-decyloxyphenyl)-3-(2,6-dichlorophenyl)-1-methyl-1H-1,2,4-triazole | 0.40 g | C(CCCCCCCCC)OC1=CC=C(C=C1)C1=NC(=NN1C)C1=C(C=CC=C1Cl)Cl | C25H31Cl2N3O
